Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Augmentin / azithromycin / ketoconazole / paclitaxel / 
oxycodone / Dilaudid / Macrobid
 
Attending: ___.
 
Chief Complaint:
dysuria 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ female with a history of ovarian cancer on chemo
holiday ___ year), total hysterectomy, hypothyroidism, multiple
visits for abdominal pain and dysuria recently treated for UTI 
in
___, presented with left flank pain. Patient reports that
last night she had sudden onset, sharp, constant pain in her 
left
flank. Reports dysuria for multiple days. Denies hematuria.
Denies fever/chills/nausea/vomiting.

PE:
+bilateral CVA tenderness

Initial vital signs were notable for:
T96.7, HR102,BP 147/84, RR16, 99% RA Pain ___

Exam notable for:
+B/L CVA Tenderness

Labs were notable for:

___    
3.5  25  1.0  

UCG: NEG
Lactate:1.5
UA: 28 WBC, 30 Protein, No Bacteria/Yeast,
TransE:<1
Mucous:Many
Blood Cx/Urine Cx: Pending

Studies performed include:
CTU noncon- 
Impression: No acute intra-abdominal or pelvic abnormality
identified to correlate with patient's symptoms. No
nephrolithiasis identified. Unchanged left pelvic sidewall and
perisplenic soft tissue nodules.
  
PELVIS: The urinary bladder and distal ureters are unremarkable.
There is no free fluid in the pelvis. A left pelvic sidewall 
soft
tissue nodule measures up to 1 cm (2:77), unchanged from prior. 
  
REPRODUCTIVE ORGANS: Status post hysterectomy and bilateral 
salpingo-oophorectomy. 

URINARY: The kidneys are of normal and symmetric size. There is
no evidence of focal renal lesions within the limitations of an
unenhanced scan. There is no hydronephrosis. There is no
ephrolithiasis. There is no perinephric abnormality. 

Patient was given:
IVF
oral morphine

Patient reports oral morphine is minimally controlling pain. Was
able to tolerate some liquids but not a significant amount. Does
not feel safe to go home>admitted to medicine for pain control.

Consults: None

Vitals on transfer: T98.0, BP 117/79, HR 95, 18, 97% RA

Upon arrival to the floor, pt is generally comfortable in some
minor pain. Resting comfortably, appropriate, alert. 
 
Past Medical History:
ovarian CA s/p total hysterectomy, chemo (last tx~ ___ year ago)
hypothyroidism
- Developmental delay with learning disability attributed to 
childhood viral encephalitis
- Depression
- Headaches
- Raynaud's disease
- Undifferentiated connective tissue disorder
- IBS
 
Social History:
___
Family History:
DIABETES MELLITUS; 
PSORIASIS
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================
VITALS: T98.0; BP 117/79, HR95, RR18, 97% RA, Pain ___
GENERAL: Alert and interactive. In no acute distress. No signs 
of pain at rest.
HEENT: NCAT. EOMI. Sclera anicteric and without injection.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or 
rales. No increased work of breathing.
BACK: Mild spinous process tenderness L4-L5. Mild B/L CVA 
tenderness.
ABDOMEN: Soft, non distended, tender to suprapubic palpation, 
negative otherwise.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+ bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: ___ strength throughout. Normal sensation. AOx3. 
Negative straight leg raise test.

DISCHARGE PHYSICAL EXAM:
======================
Vitals: ___ ___ Temp: 98.3 PO BP: 94/66 HR: 76 RR: 18 O2 
sat: 98% O2 delivery: Ra 
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: CTABL, no wheezes, rales, rhonchi. Breathing comfortably 
on RA with no increased work of breathing.  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-distended, NABS. mild TTP in LLQ, 
periumbilical and suprapubic regions. no rebound tenderness or 
guarding, no organomegaly  
Back: mild spinous process tenderness L4-L5. Paraspinal muscle 
tenderness noted in L spine. 
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: A&Ox3. No focal neurologic deficits. Moving all 
extremities. CN II-XII grossly intact.

 
Pertinent Results:
ADMISSION LABS:
==============
___ 01:04AM URINE  MUCOUS-MANY*
___ 01:04AM URINE  RBC-4* WBC-28* BACTERIA-NONE YEAST-NONE 
EPI-1 TRANS EPI-<1
___ 01:04AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-6.0 
LEUK-MOD*
___ 01:04AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 01:04AM URINE  UCG-NEG
___ 05:43AM   PLT COUNT-139*
___ 05:43AM   NEUTS-70.0 ___ MONOS-4.6* EOS-2.1 
BASOS-0.4 IM ___ AbsNeut-4.67 AbsLymp-1.49 AbsMono-0.31 
AbsEos-0.14 AbsBaso-0.03
___ 05:43AM   WBC-6.7 RBC-3.92 HGB-9.7* HCT-31.7* MCV-81* 
MCH-24.7* MCHC-30.6* RDW-17.2* RDWSD-49.8*
___ 05:43AM   GLUCOSE-94 UREA N-13 CREAT-1.0 SODIUM-142 
POTASSIUM-3.5 CHLORIDE-104 TOTAL CO2-25 ANION GAP-13
___ 05:54AM   LACTATE-1.5

PERTINENT LABS:
==============
___ 05:28PM URINE CT-PND NG-PND

MICROBIOLOGY:
=============
___ 5:28 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
__________________________________________________________
___ 5:43 am BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 
__________________________________________________________
___ 1:04 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

IMAGING/OTHER STUDIES:
====================
___ CTU (ABD/PELV) WO CONTRAST
FINDINGS: 
LOWER CHEST: Visualized lung fields are within normal limits.  
There is no
evidence of pleural or pericardial effusion.
 
ABDOMEN:
HEPATOBILIARY: The liver demonstrates homogeneous attenuation 
throughout. 
There is no evidence of focal lesions within the limitations of 
an unenhanced scan.  There is no evidence of intrahepatic or 
extrahepatic biliary dilatation.  The gallbladder is within 
normal limits.
 
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of focal lesions within the limitations of an 
unenhanced scan.  There is no
pancreatic ductal dilatation.  There is no peripancreatic 
stranding.
 
SPLEEN: The spleen measures up to 12.8 cm with normal 
throughout, with a 1 cm hypodense lesion visualized anteriorly, 
unchanged from prior (02:22).
 
ADRENALS: The right and left adrenal glands are normal in size 
and shape.
 
URINARY: The kidneys are of normal and symmetric size.  There is 
no evidence of focal renal lesions within the limitations of an 
unenhanced scan.  There is no hydronephrosis.  There is no 
nephrolithiasis.  There is no perinephric abnormality.
 
GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate normal caliber and wall thickness throughout.  
The colon and rectum are within normal limits.  The appendix is 
not visualized.
 
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no free fluid in the pelvis.  A left pelvic sidewall 
soft tissue nodule measures up to 1 cm (2:77), unchanged from 
prior.
 
REPRODUCTIVE ORGANS: Status post hysterectomy and bilateral
salpingo-oophorectomy.
 
LYMPH NODES: Patient is status post retroperitoneal lymph node 
dissection with multiple surgical clips visualized throughout 
the retroperitoneum and pelvis, as on prior.  There is no 
retroperitoneal or mesenteric lymphadenopathy. There is no 
inguinal lymphadenopathy.
 
VASCULAR: There is no abdominal aortic aneurysm.  No 
atherosclerotic disease is noted.
 
BONES: Two femoral neck fixation screws are re-demonstrated 
unchanged in
appearance from prior.  There is no evidence of worrisome 
osseous lesions or acute fracture.
 
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits.
 
IMPRESSION: 
No acute abdominopelvic abnormality.
Stable nodule adjacent to the spleen and stable left pelvic 
sidewall nodule, unchanged from prior examination.

DISCHARGE LABS:
==============
___ 05:43AM BLOOD WBC-5.3 RBC-3.94 Hgb-9.8* Hct-31.9* 
MCV-81* MCH-24.9* MCHC-30.7* RDW-17.0* RDWSD-49.1* Plt ___
___ 05:43AM BLOOD Plt ___
___ 05:43AM BLOOD Glucose-92 UreaN-12 Creat-0.9 Na-141 
K-3.8 Cl-101 HCO3-30 AnGap-10
___ 05:43AM BLOOD Calcium-8.7 Phos-3.7 Mg-1.___RIEF HOSPITAL COURSE:
===================
___ Y/o F with a h/o recurrent ovarian CA s/p total hysterectomy 
and hypothyroidism p/w L flank pain and dysuria for the third 
time in the past 3 months (last ___, concerning for 
recurrent UTI, however patient has been treated with abx and had 
resolution of symptoms in past despite negative urine cultures. 

TRANSITIONAL ISSUES:
==================
[ ] F/up pending ___ Chlamydia
[ ] urology follow up for recurrent dysuria with negative urine 
cultures- scheduled for ___. Unfortunately no earlier 
appointments available for new patients 
[ ] patient with intermittent headaches. consider outpatient 
head imaging given concern for increased intracranial pressure, 
?possible metastatic disease iso cancer off treatment for ___ year
[ ] discharged on cefpodoxime 200 BID until ___ (7d course of 
antibiotics)

ACTIVE/ACUTE ISSUES: 
=================
#Dysuria/Pyuria
#H/o recurrent ?UTIs 
UA with 28 WBC, moderate leuks with no bacteria or nitrite 
present. Has a history of negative urine cultures on her last 3 
admissions, for which she has been treated with abx. Only 
positive UCx from ___ with E coli resistant to Bactrim and 
Cipro. Most recently admitted ___ with presumed UTI and 
d/c'ed home on Bactrim x5d with resolution of symptoms. CT A/P 
on admission unremarkable for other causes of flank/back pain 
(does have enlarged L lymph nodes). No fevers, chills, nausea or 
vomiting. Urine culture from this admission was contaminated by 
skin flora x2. Urine GC/CT was tested given STIs can cause 
pyuria with negative cultures and were pending at time of 
discharge. Patient would likely benefit most from outpatient 
urology follow up with likely cystoscopy and has appointment 
scheduled for ___. Unfortunately there were no sooner 
appointments for new patients available. Patient was treated 
with ceftriaxone while inpatient and discharged on cefpodoxime 
for a 7-day course for possible UTI/pyelonephritis. She also 
received pyridium for dysuria. 

#Back pain
Bilateral lower back pain, worse with urination but also tender 
to palpation at paraspinal muscles. Normal CT A/P imaging, no 
stone/obstruction or spinal abnormalities noted. Patient 
reported resolution of back pain after Abx from ___ admission, 
but does not seem completely consistent with UTI diagnosis based 
on exam findings. Suspect low back pain is most likely 
musculoskeletal given diffuse tenderness to palpation over 
lateral lower back. Patient received Tylenol, cyclobenzaprine 
and lidocaine gel for pain management. 

#Recurrent ovarian cancer s/p hysterectomy
Off chemo since ___. Follows up at ___. Plan to touch 
base with her outpatient oncologist. 

CHRONIC ISSUES: 
=============== 
#Hypothyroidism 
Continued on home Levothyroxine 

#Anemia: 
At baseline relative to past admissions. No evidence of 
bleeding. Most likely multifactorial ___ BM suppression, ovarian 
CA and chemo. CBC was trended. She did not require any 
transfusions while hospitalized.

#Thrombocytopenia: 
At baseline compared to other admissions. Likely ___ 
chemotherapy. Did not require transfusion/no signs of overt 
bleeding/melena. 

#Depression: 
Continued on home duloxetine, amitryptiline, aripiprazole 

#HTN: 
Continued on home losartan 

#CODE: Full Code, confirmed with patient 
#CONTACT: HCP/Mother ___ ___ 
 Alternate HCP - ___ ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ARIPiprazole 2 mg PO QHS 
2. DULoxetine 60 mg PO DAILY 
3. Losartan Potassium 25 mg PO DAILY 
4. Amitriptyline 25 mg PO QHS 
5. Gabapentin 600 mg PO QHS 
6. Baclofen ___ mg PO TID:PRN Back Pain 
7. Omeprazole 40 mg PO DAILY:PRN heartburn 
8. Levothyroxine Sodium 75 mcg PO DAILY 
9. LORazepam 1 mg PO QHS 

 
Discharge Medications:
1.  Cefpodoxime Proxetil 200 mg PO Q12H Duration: 3 Days 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth twice a day Disp #*6 
Tablet Refills:*0 
2.  Lidocaine Jelly 2% 1 Appl TP BID:PRN pain 
RX *lidocaine 4 % Apply to low back twice a day Refills:*0 
3.  Phenazopyridine 100 mg PO TID dysuria Duration: 3 Days 
RX *phenazopyridine 100 mg 1 tablet(s) by mouth three times a 
day Disp #*9 Tablet Refills:*0 
4.  Amitriptyline 25 mg PO QHS  
5.  ARIPiprazole 2 mg PO QHS  
6.  Baclofen ___ mg PO TID:PRN Back Pain  
7.  DULoxetine 60 mg PO DAILY  
8.  Gabapentin 600 mg PO QHS  
9.  Levothyroxine Sodium 75 mcg PO DAILY  
10.  LORazepam 1 mg PO QHS  
11.  Losartan Potassium 25 mg PO DAILY  
12.  Omeprazole 40 mg PO DAILY:PRN heartburn  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Dysuria/pyuria with negative urine cx
Low back pain

Secondary diagnoses:
recurrent ovarian cancer s/p hysterectomy, off chemo
hypothyroidism
anemia
thrombocytopenia
depression
hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure to care for you at the ___ 
___.  

Why did you come to the hospital?  
-  You came to the hospital because you had discomfort when 
urinating and pain in your back. 

What did you receive in the hospital?  
- You had imaging of your abdomen and pelvis that did not show 
any signs of obstruction such as a kidney stone.
- Your urine was sampled to look for infection but we did not 
see an infection.
- You were given a full course of antibiotics to treat a 
possible urinary tract infection.

What should you do once you leave the hospital?  
- You should attend all of your scheduled follow up appointments 
(see below)
- You should take your medications as prescribed (see below)

We wish you the best!  
Your ___ Care Team  

 
Followup Instructions:
___